US07790751B2
A suspension of 3-(naphthalene-1-sulfonyl)-5-(pyrrolidin-3-yloxy)-1H-indazole (52.8 mg, 0.134 mmol) in 1,2-dichloroethane was treated sequentially with butyraldehyde (0.1 mL, 1 mmol) and acetic acid (0.1 mL, 2 mmol), stirred at ambient temperatures, under nitrogen, for 20 minutes, treated with additional acetic acid (0.2 mL, 3 mmol) and 1,2-dichloroethane, stirred at ambient temperature for 1 hour, 40 minutes, treated with sodium triacetoxyborohydride (96.7 mg, 0.457 mmol), stirred for 3 hours at ambient temperatures, diluted with chloroform and poured into excess 2.5 N sodium hydroxide. The phases were separated; the organic phase was washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The resultant residue was purified by flash chromatography using 0.25% ammonium hydroxide/2.5% methanol in chloroform to afford 5-(1-butyl-pyrrolidin-3-yloxy)-3-(naphthalene-1-sulfonyl)-1H-indazole as a light yellow foam, 30.0 mg (49.8% yield). The foam was dissolved in chloroform and methanol, treated with ethereal HCl and concentrated in vacuo at 83° C. for 13 hours to give the title product as a pale yellow foam, 26.9 mg, Mass spectrum (+EI, [M+H]+) m/z 450. 1HNMR (500 MHz, DMSO-d6): δ14.19 (s, 1H), 10.25-10.65 (m*, 1H), 8.75 (d, 1H, J=8.54 Hz), 8.56 (d, 1H, J=6.83 Hz), 8.28 (d, 1H, J=8.29 Hz), 8.03-8.05 (m, 1H), 7.71-7.75 (m, 1H), 7.56-7.65 (m, 3H), 7.27 (s, 1H), 7.12 (dd, 1H, J=9.15 Hz and 2.32 Hz), 5.19-5.24 (m, 1H), 3.39-3.96 (m*, 3H), 3.08-3.24 (m*, 3H), 2.00-2.63 (m*, 2H), 1.56-1.64 (m, 2H), 1.21-1.34 (m, 2H), 0.80-0.90 ppm (m, 3H). *Conformational isomers due to protonation of tertiary amine.

reactant | 3-(naphthalene-1-sulfonyl)-5-(pyrrolidin-3-yloxy)-1H-indazole | 0.134 mmol, 52.8 mg | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NNC2=CC=C(C=C12)OC1CNCC1 | C21H19N3O3S
reactant | butyraldehyde | 1 mmol, 0.1 mL | C(CCC)=O | C4H8O
reactant | acetic acid | 2 mmol, 0.1 mL | C(C)(=O)O | C2H4O2
reactant | acetic acid | 3 mmol, 0.2 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.457 mmol, 96.7 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 2.5 N | [OH-].[Na+]
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-(1-butyl-pyrrolidin-3-yloxy)-3-(naphthalene-1-sulfonyl)-1H-indazole | 49.8% yield | C(CCC)N1CC(CC1)OC=1C=C2C(=NNC2=CC1)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C25H27N3O3S
